US08877744B2
A solution of 4-methylbenzenesulfonohydrazide (819 mg, 4.4 mmol) and dihydro-2H-pyran-4(3H)-one (487 μl, 5.28 mmol) was stirred in a Dean-Stark apparatus at 120° C. for 24 hours. The reaction mixture was cooled and evaporated at reduced pressure. The residue was purified by chromatography using a gradient of dichloromethane/ethyl acetate=100:0 to 80:20 as the eluent to give the 4-methyl-N′-(2H-pyran-4(3H,5H,6H)-ylidene)benzenesulfonohydrazide (475 mg, 40% yield) as an off white solid. MS (ISP): m/z=269.3 [M+H]+.

reactant | 4-methylbenzenesulfonohydrazide | 4.4 mmol, 819 mg | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
reactant | dihydro-2H-pyran-4(3H)-one | 5.28 mmol, 487 μl | O1CCC(CC1)=O | C5H8O2
product | 4-methyl-N′-(2H-pyran-4(3H,5H,6H)-ylidene)benzenesulfonohydrazide | 475 mg, 40% yield | CC1=CC=C(C=C1)S(=O)(=O)NN=C1CCOCC1 | C12H16N2O3S
